US07745437B2
N-[3-(1H-Imidazol-2-ylamino)-4-methyl-phenyl]-3-trifluoromethyl-benzamide
A mixture of N-(2,2-diethoxyethyl)carbodiimide (398 mg, 2.51 mmol), 3-amino-4-methyl-phenyl]-3-trifluoromethyl-benzamide (649 mg, 2.20 mmol), methanesulfonic acid (143 μL, 2.20 mmol) in ethanol (25 mL) is heated at reflux for 16 hours. An additional portion of N-(2,2-diethoxyethyl)carbodiimide (525 mg, 3.32 mmol) and methanesulfonic acid (143 μL, 2.20 mmol) are added. After an additional 3 hours refluxing, the reaction mixture is concentrated. The residue is dissolved in HCl (6N, 5 mL) and ethanol (5 mL). After stirring overnight, the reaction mixture is concentrated and basified with 25% NaOH solution to a pH of 14. The mixture is stirred for 30 minutes, extracted with CH2Cl2, dried, concentrated and purified by column chromatography (silica gel, eluting with 7N NH3 in methanol:dichloromethane from 2% to 4%) to give the title compound.

reactant | N-(2,2-diethoxyethyl)carbodiimide | 2.51 mmol, 398 mg | C(C)OC(CN=C=N)OCC | C7H14N2O2
reactant | 3-trifluoromethyl-benzamide | 2.20 mmol, 649 mg | FC(C=1C=C(C(=O)N)C=CC1)(F)F | C8H6F3NO
reactant | methanesulfonic acid | 2.20 mmol, 143 μL | CS(=O)(=O)O | CH4O3S
reactant | N-(2,2-diethoxyethyl)carbodiimide | 3.32 mmol, 525 mg | C(C)OC(CN=C=N)OCC | C7H14N2O2
reactant | methanesulfonic acid | 2.20 mmol, 143 μL | CS(=O)(=O)O | CH4O3S
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N-[3-(1H-Imidazol-2-ylamino)-4-methyl-phenyl]-3-trifluoromethyl-benzamide | N1C(=NC=C1)NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C18H15F3N4O
